US07763622B2
Preparation of 5-cyano-6-(2-chloro-4-fluorophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo[1,5-a]pyrimidine
A mixture of 5-chloro-6-(2-chloro-4-fluorophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo-[1,5-a]-pyrimidine (0.1 mol) and tetraethylammonium cyanide (0.25 mol) in 750 ml Dimethylformamide (DMF) was stirred for 16 hours at 20 to 25° C. To this mixture was added water and methyl-tert. butylether (MTBE), the organic phase was separated, washed with water, dried and filtered. The filtrate was evaporated and the residue was purified by column chromatography to yield 5.91 g of the title compound of mp. 247° C.

reactant | 5-chloro-6-(2-chloro-4-fluorophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo-[1,5-a]-pyrimidine | 0.1 mol | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1)F)Cl)N1CCC(CC1)C)N=CN2 | C17H16Cl2FN5
reactant | water | O | H2O
reactant | methyl-tert. butylether | COC(C)(C)C | C5H12O
reactant | Dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
catalyst | tetraethylammonium cyanide | 0.25 mol | [C-]#N.C(C)[N+](CC)(CC)CC
product | 5-cyano-6-(2-chloro-4-fluorophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo[1,5-a]pyrimidine | 5.91 g | C(#N)C1=NC=2N(C(=C1C1=C(C=C(C=C1)F)Cl)N1CCC(CC1)C)N=CN2 | C18H16ClFN6
